US04354973
4-[2-(2-Fluorobenzoyl)-4-chlorophenyl]-5-methyl-1H-pyrrole-3-carbonitrile
A mixture of 34.5 g (121 mmole) of 3-[2-(2-fluorobenzoyl)-4-chlorophenyl]-2-propenenitrile, 25.3 g (121 mole) of 1-tosylethyl isocyanide, 200 ml of dimethyl sulfoxide and 400 ml of ether was added dropwise to a suspension of 8.9 g (184 mmole) of 50% sodium hydride in mineral oil and 450 ml of ether. When the addition was complete stirring was continued for 2 hr. The mixture was diluted with water and the ether layer was separated. The aqueous solution was extracted with ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give a dark oil. Crystallization from ether gave off-white crystals. A small portion was recrystallized from a mixture of methylene chloride and ether to give colorless prisms, mp 201°-202°.

reactant | 3-[2-(2-fluorobenzoyl)-4-chlorophenyl]-2-propenenitrile | 121 mmole, 34.5 g | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=CC#N)C=CC=C1 | C16H9ClFNO
reactant | 1-tosylethyl isocyanide | 121 mole, 25.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)C(C)[N+]#[C-] | C10H11NO2S
reactant | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 184 mmole, 8.9 g | [H-].[Na+]
reactant | ether | 450 ml | CCOCC | C4H10O
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-[2-(2-Fluorobenzoyl)-4-chlorophenyl]-5-methyl-1H-pyrrole-3-carbonitrile | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=2C(=CNC2C)C#N)C=CC=C1 | C19H12ClFN2O
